* AB165 (Blackface Bassman-style) — DC operating-point netlist
* Circuit Codex — CC-BY-SA 4.0. Independently drawn from the published
* "Fender Model Bassman-Amp AB165" (D-FE) drawing's component values (see
* meta.yaml); no drawing reproduced. The drawing letters the three preamp
* bottles 7025 — an alias for the 12AX7 (reference/tubes/12ax7.yaml
* also_known_as) — a 12AT7 phase inverter, and a 6L6GC pair; the output pair
* uses the 6L6-family 5881 model (reference/tubes/5881.yaml, anchored on RC-19
* 6L6GC average characteristics), exactly as amps/5f4 does for its 6L6G.
*
* DC conventions. ONE rail is driven — BP1 = +425 V, the printed reservoir /
* choke node that carries the 6L6 plates (OT primary DCR omitted) and their
* screen feed — and every rail below it is DERIVED through the drawing's own
* droppers: 1 kOhm-1W to the +415 V phase-inverter node, 4.7 kOhm-1W on to the
* +390 V second-stage node, 27 kOhm-1W on to the +320 V input-stage node. That
* makes the printed rail ladder itself a checked claim rather than an input.
*
* The bias supply (470 Ohm-1W feed, rectifier, filter cans and the 10 kOhm /
* 10 kOhm / 15 kOhm divider around the 10 kOhm-L BIAS BALANCE control) is
* replaced by an ideal -45 V source, exactly as its ripple-filtering and
* balance-trim role warrants; the printed -45 V is the value the sheet calls
* out at the pot. DC-open caps are MODELLED where BOTH leads land on a named DC
* node (the PI->6L6 couplers, the bass-channel plate-load shunt, the mixer
* coupler, the PI cold-grid AC ground and every cathode-bypass can) so an
* eventual layout is placement-checked; open at DC they move no operating
* point. Caps into the abstracted tone / volume networks stay omitted.
*
* MODELLED AS DRAWN, against arithmetic. Two of the drawing's own numbers do
* not survive its own part values; both are carried as `disputed` chart nodes
* in voltages.yaml with the arithmetic, never force-fitted (see notes.md):
*   - the bass channel's second-stage plate load is drawn on the +320 V rail
*     while the normal channel's identical stage is drawn on +390 V, yet the
*     chart prints +260 V at both plates;
*   - the two channel-input stages are identical part for part on the same
*     +320 V rail, yet the chart prints +220 V (bass) and +280 V (normal).
*
* OMITTED. The 47 kOhm / 0.1 uF negative-feedback loop from the output
* transformer secondary to the phase inverter's hot grid: the capacitor is in
* series with it, so the loop carries no DC and its far end sits on the speaker
* line at 0 V. The tone stacks, volume controls, DEEP and BRIGHT switches are
* AC networks with no DC path to a modelled node.
* NAMING. Tube instances are named for the SOCKET they sit in and the triode
* half they use — XV1A/XV1B (bass channel), XV2A/XV2B (normal channel), XV3B
* (mixer/driver, the only half of its bottle the circuit uses), XPIA/XPIB
* (12AT7 inverter), XV5/XV6 (6L6GC) — matching bom.yaml's V1..V6 and the board
* layout's socket ids, so the layout-equivalence gate can anchor every bottle.
.include models/12ax7.inc
.include models/12at7.inc
.include models/5881.inc

VBP1 BP1 0 DC 425
VBIAS NBIAS 0 DC -45

* --- Supply rail ladder, all derived from BP1 (printed +425/+415/+390/+320).
RD1 BP1 BPI 1k
RD2 BPI BD  4.7k
RD3 BD  BC  27k

* --- Bass channel input V1a (7025/12AX7): 100k plate load off the +320 V rail
*     with a .01 uF shunt across it (the sheet's treble cut on the bass front
*     end), 1.5k cathode with a 25 uF can, grid returned through the input
*     jacks' 1M leak behind two 68k stoppers.
RLB1 BC PB1 100k
CLB1 BC PB1 0.01u
XV1A PB1 GB1 KB1 12AX7
RGB1 GB1 0 1meg
RKB1 KB1 0 1500
CKB1 KB1 0 25u

* --- Bass channel second stage V1b (7025/12AX7): 100k plate load drawn off the
*     +320 V rail (see the dispute note above), 1.5k/25 uF cathode, grid
*     returned through the 1M-A volume control.
RLB2 BC PB2 100k
XV1B PB2 GB2 KB2 12AX7
RGB2 GB2 0 1meg
RKB2 KB2 0 1500
CKB2 KB2 0 25u

* --- Normal channel input V2a (7025/12AX7): identical to V1a but without the
*     plate-load shunt; 100k off +320 V, 1.5k/25 uF cathode, 1M grid leak.
RLN1 BC PN1 100k
XV2A PN1 GN1 KN1 12AX7
RGN1 GN1 0 1meg
RKN1 KN1 0 1500
CKN1 KN1 0 25u

* --- Normal channel second stage V2b (7025/12AX7): 100k plate load off the
*     +390 V rail, 1.5k/25 uF cathode, 1M-A volume grid return.
RLN2 BD PN2 100k
XV2B PN2 GN2 KN2 12AX7
RGN2 GN2 0 1meg
RKN2 KN2 0 1500
CKN2 KN2 0 25u

* --- Channel mixer. Each second-stage plate reaches the mixing node MIX
*     through its own 220k, and the mixer/driver's plate is returned to that
*     same node through 470k — a DC-connected network, so it is solved, not
*     abstracted. MIX feeds the driver grid through the .01 uF coupler.
RMXB MIX PB2 220k
RMXN MIX PN2 220k
RFBM MIX PM  470k
CMIX MIX GM  0.01u

* --- Mixer/driver V3b (7025/12AX7): 100k plate load off the +390 V rail,
*     1.5k/25 uF cathode, 470k grid leak to ground.
RLM BD PM 100k
XV3B PM GM KM 12AX7
RGM GM 0 470k
RKM KM 0 1500
CKM KM 0 25u

* --- Phase inverter V4 (12AT7 long-tailed pair): two 100k 5% plate loads off
*     the +415 V node, cathodes joined at KPI, 470 Ohm to the tail junction
*     JPI, 22k tail from JPI to ground, both 1M grid leaks returned to JPI.
*     Each plate additionally carries a 220k back to the output plate rail —
*     the AB165's local feedback pair, DC-connected and therefore solved.
RLPA BPI PPIA 100k
RLPB BPI PPIB 100k
XPIA PPIA GPIA KPI 12AT7
XPIB PPIB GPIB KPI 12AT7
RGPA GPIA JPI 1meg
RGPB GPIB JPI 1meg
RTAIL KPI JPI 470
RT2 JPI 0 22k
RBSA BP1 PPIA 220k
RBSB BP1 PPIB 220k
CPIA PM GPIA 0.1u
CPIB GPIB 0 0.1u

* --- Output pair 6L6GC (fixed bias): grids to the -45 V line through 220k 5%
*     leaks and 1500 Ohm stoppers, screens off BP1 through 470 Ohm-1W
*     stoppers, cathodes grounded, plates at BP1 (OT primary DCR omitted).
RGL1 NBIAS GO1 220k
RGS1 GO1 GG1 1500
XV5 BP1 SO1 GG1 0 5881
RS1 BP1 SO1 470
C1 PPIA GO1 0.022u

RGL2 NBIAS GO2 220k
RGS2 GO2 GG2 1500
XV6 BP1 SO2 GG2 0 5881
RS2 BP1 SO2 470
C2 PPIB GO2 0.022u
